US05486525
A mixture of 4-azidomethylphenylsulfonyl azide (2.93 g, 12.3 mmol), prepared by reaction of p-toluenesulfonyl chloride with N-bromosuccinimide followed by sodium azide, and 1-methylindole was heated at 55° C. for 6 hours. Pure 1-methyl-3-[4-(azidomethyl)phenylsulfonylamino]indole was obtained by chromatography on silica gel (1:1 CH2Cl2 /hexanes, then CH2Cl2, then 1.5% methanol/CH2Cl2).

reactant | 4-azidomethylphenylsulfonyl azide | 12.3 mmol, 2.93 g | N(=[N+]=[N-])CC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C7H6N6O2S
reactant | p-toluenesulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | 1-methylindole | CN1C=CC2=CC=CC=C12 | C9H9N
product | 1-methyl-3-[4-(azidomethyl)phenylsulfonylamino]indole | CN1C=C(C2=CC=CC=C12)NS(=O)(=O)C1=CC=C(C=C1)CN=[N+]=[N-] | C16H15N5O2S
